US04939172
Preparation 1: α methyl-2,3,5,6-tetrafluoro-benzyl alcohol
3 2 ml of methyl iodide were introduced over the course of 30 minutes into a suspension of 1 g of magnesium and 30 ml of ethyl ether and the mixture was stirred for 30 minutes. The mixture was cooled to 0° C. and 4 g of 4-methyl-2,3,5,6-tetra fluorobenzaldehyde and 100 ml of ethyl ether were introduced over the course of 30 minutes. The reaction mixture was stirred for 1 hour at 0° C. and was poured into 150 ml of a saturated aqueous ammonium chloride solution. Extraction was carried out with ether and the ethereal phases were dried and evaporated to dryness under reduced pressure. The crude product was chromatographed on silica and eluted with a hexane:isopropyl ether (8:2) mixture to obtain 3.85 g of the product with a Rf=0.10.

reactant | methyl iodide | CI | CH3I
reactant | magnesium | 1 g | [Mg] | Mg
reactant | 4-methyl-2,3,5,6-tetra fluorobenzaldehyde | 4 g | CC1=C(C(=C(C=O)C(=C1F)F)F)F | C8H4F4O
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | methyl-2,3,5,6-tetrafluoro-benzyl alcohol | 3.85 g | CC(C1=C(C(=CC(=C1F)F)F)F)O | C8H6F4O
